US06228859B1
6-Amino-3-(3-cyclopentyloxy-4-methoxy-benzyl)-8-(1-hydroxy-1-methyl-ethyl)-3H-purine hydrochloride
A solution of 6-amino-8-(1-benzyloxy-1-methyl-ethyl)-3-(3-cyclopentyloxy-4-methoxy-benzyl)-3H-purine hydrochloride (2.13 g, 4.06 mmole), in THF:methanol,1:1 (60 ml), was hydrogenated at room temperature and pressure with 10% Pd-C (0.26 g) for 12 hours. The catalyst was filtered off and the solvents removed in vacuo. The residue was suspended in hot acetone, the solid collected at 0-5° C. (1.23 g) and recrystallized from methanol-acetone to give the title compound, 0.76 g (43.2%) mp 231-232° C.

reactant | 6-amino-8-(1-benzyloxy-1-methyl-ethyl)-3-(3-cyclopentyloxy-4-methoxy-benzyl)-3H-purine hydrochloride | 4.06 mmole, 2.13 g | Cl.NC1=C2N=C(N=C2N(C=N1)CC1=CC(=C(C=C1)OC)OC1CCCC1)C(C)(C)OCC1=CC=CC=C1
reactant | methanol | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
catalyst | Pd-C | 0.26 g | [Pd] | Pd
product | 6-Amino-3-(3-cyclopentyloxy-4-methoxy-benzyl)-8-(1-hydroxy-1-methyl-ethyl)-3H-purine hydrochloride | Cl.NC1=C2N=C(N=C2N(C=N1)CC1=CC(=C(C=C1)OC)OC1CCCC1)C(C)(C)O | InChI=1S/C21H27N5O3.ClH/c1-21(2,27)20-24-17-18(22)23-12-26(19(17)25-20)11-13-8-9-15(28-3)16(10-13)29-14-6-4-5-7-14;/h8-10,12,14,27H,4-7,11,22H2,1-3H3;1H
